US04188397
2,2'-[1,3-Propanediylbis(thio)]bis[4,5-bis(4-methoxyphenyl)-1H-imidazole]
A mixture of 4,5-bis(4-methoxyphenyl)-1H-imidazole-2-thione (15.6 g, 0.05 mol) and 1,3-dibromopropane (5 g, 0.025 mol) in ethanol (150 ml) was refluxed for three hours. After cooling, the resulting solid was removed by filtration and discarded. The solvent was removed at reduced pressure to give a yellow foam which was then treated with chloroform-ether. The resulting solid material was removed by filtration, dissolved in chloroform and washed with 10% aqueous sodium hydroxide solution. The solvent was removed at reduced pressure to give the title compound.

reactant | 4,5-bis(4-methoxyphenyl)-1H-imidazole-2-thione | 0.05 mol, 15.6 g | COC1=CC=C(C=C1)C=1NC(NC1C1=CC=C(C=C1)OC)=S | C17H16N2O2S
reactant | 1,3-dibromopropane | 0.025 mol, 5 g | BrCCCBr | C3H6Br2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2,2'-[1,3-Propanediylbis(thio)]bis[4,5-bis(4-methoxyphenyl)-1H-imidazole] | C(CCSC=1NC(=C(N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)SC=1NC(=C(N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C37H36N4O4S2
